data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,747,"C(CCC1CO1)CC[OH:1].OCCCCC[CH:2]1C[OH+:3]1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2808,"C[S+](C)(=O)[CH2-:1].[CH2:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7232,"COC1=C2C3=C(C=C1)CC1N(CC4=CC=CC=C4)CCC34C1(O)CC[CH-:1][CH:2]4[O:3]2.N#N.O.[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3787,"CCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,7040,"N#CC1=CC2=C(C=C1)C=C[CH+:1][C:2]2(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7680,"BrC1=C(C23CC(CCC2=[O+:1][H:2])C2=C(C=CC=C2)N3)C=CC=C1.O=C[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1616,"CC[C:1](C)([N+](=O)[O-])[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3221,"C=CCC(C)(O)C(C)(CC=C)[OH:1].O=C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8437,"C1C[N:1]2CCN1CC2.COC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7036,"O=C([O-])C[NH:1]CC(=O)[O][Ca:2][OH]|(1, 2)"
train,pmechdb_split_0,0,1393,"CC[OH:1].CO[CH+:2][CH:3](C)[H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,9090,"CS(=O)(=O)O[Si:1](C)(C)C.C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,10318,"CCC[O+:1](C)[Li:2]|((2, 1), 1)"
train,pmechdb_split_0,0,4198,"CC(=O)O[Si-](C)(C)(C)[O+:1]=[C:2](C)[NH:3][H:4].C[OH:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9199,"C[N+:1](CC[O:2][B-](F)(F)F)=[C:3](C)C|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,8561,"CCC[CH2:1][Li:2].C[Si](C)(C)OC1=CCC([C:3](C)=[O:4])CC1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1283,"CC1OC(CO[P:1]([O-])(OP(=O)([O-])OP(=O)([O-])O)=[O:2])C(O)C1O.[NH3+]C(CCC(=O)[O-])C(=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5287,"C[S-:1].C[S:2][S:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7629,"CO.COC(=O)CCC1=C(C)NC([CH:1]=[O+:2]C)=C1C.O=C([O-])C(F)(F)F.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3245,"O=[N+:1]=[O:2].OC1=C2C=CC=CC2=N[C:3]([OH:4])=[CH:5]1|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4466,"CC[C:1](C)([H:2])[C+:3](C)CC.[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5471,"CC(=O)[O:1][H:2].CCCC[N+](CCCC)(CCCC)CCCC.CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4989,"C=CC#[N:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5505,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CO.[N-]=[N+]=NCC1OC(OC2C(N=[N+]=[N-])CC(N=[N+]=[N-])C(OC3OC4COC(C5=CC=CC=C5)[O+:2]([H:3])C4C(N=[N+]=[N-])C3O)C2O)C(O)C(O)C1O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9892,"CC[C+:1]1CC(C)CC[CH:2]1[H:3].CC[OH:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1403,"C1=CC=CC=C1.C1CCC(N2CCOCC2)([O-:1])C1.C1C[NH+:2]([H:3])CCO1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2909,"C1C[N:1]2CCN1CC2.C=C(C(C)=O)C(O)C1=C([O:2][H:3])C(OC)=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10125,"C=[O+:1][Si-:2](C)(C)(C)I|((2, 1), 1)"
train,pmechdb_split_0,0,6265,"CC#N.CC(C)(C)[O+:1]([B-](F)(F)F)[N:2]=[O:3].NC1=C(C#CC2=CC=CC=C2)C=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9125,"C=C[C:1](C1=CC=CC=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,241,"C[CH+:1]CCO[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,8246,"CC1=CC=C(S(=O)(=O)[O:1][CH3:2])C=C1.OCC[NH:3]CCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8698,"CC(=O)O.COC1=C(C)C=C(O[CH:1]=[C:2](OC(C)=O)[O-:3])C([C:4](C)=[O:5])=C1.[Na+]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2951,"C(C[CH:1]=[O:2])[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3800,"C[P+:1](C)(C)[O:2][CH2:3]C[NH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1089,"[C-]#CC[CH:1]([H:2])[CH2:3][Br:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4866,"CCCOC(CCC)=[O:1].CC[BH-](CC)CC.[AlH4-].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,9504,"CCO[C:1]([CH:2](C)[H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1835,"CO[C:1](OC)([OH+:2]C)[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4224,"CC(C)[O-].CCC[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,653,"CC1=CC=C[C-:1]=C1N.[H:2][NH2:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4215,"O=[N+:1]=[O:2].O=[N+]([O-])C1=CO[CH:3]=[CH:4]1|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6496,"CS[CH:1]=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3027,"CC1=CCC2(C)CCC(C(C)C)[C+:1]2CC1.O=P1([O-])[O][Mg][O]P(=O)([O-])O1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,9155,"C1CCOC1.CC(=O)[O-:1].CCOC(=O)C1=C(C2=C([N+](=O)[O-])C(N3CCCCC3)=CC=C2)[CH:2]([H:3])[C:4](C(=O)OCC)=[O+:5]1.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2193,"C=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2546,"CCC(C)(C(C)C1=CC=CC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,520,"CN[C:1](C)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4080,"O[C:1](O)=[NH2+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9679,"C1=CC=[NH+]C=C1.CCOC(=O)C[C:1](NNC(N)=S)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
